US06201137B1
To a 500ml flask was added 154.9 g of THF, 50 g of 3-methyl tetrahydofuran and 8.9 g of 70 wt. % HClO4 aqueous solution. The solution was cooled to 5° C., titrated 48.0 g of acetic anhydride over 30 minutes, and then stirred for 8 hours at 5° C. After quenching the solution with 160.5 g of 17 wt. % aqueous solution of sodium hydroxide and stirring, the contents of the flask are allowed to settle and the water layer is removed. 50 g of 30 wt. % aqueous solution of sodium hydroxide is added to the oil layer, followed by heating to 120° C. to distill off the unreacted monomer, then 150 g of n-butanol are added and the solution is refluxed for 3 hours and saponificate the contents. After the contents are settled and the water layer is removed, 100 g of water is added to the oil layer. After heating the contents to reflux with constant stirring for 15 minutes, the contents of the flask are allowed to settle and cool, and, after the water layer is removed, the oil layer is rinsed by water. The oil layer is further rinsed 3 times by water adjusted to pH 2 to 3 by hydrochloric acid, by water adjusted to pH 3 to 4 and by non treated water and then the water layer is removed. After that, the oil layer is dried using a vacuum pump (10 to 20 mm Hg pressure) with heating to 120° C. and then PTMG can be obtained. The obtained polymer is transferred to the 100 ml standard bottle and the color number (JIS K-1557) is measured.

reactant | 3-methyl tetrahydofuran | 50 g | CC1COCC1 | C5H10O
reactant | acetic anhydride | 48.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | THF | 154.9 g | C1CCOC1 | C4H8O
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
